US08981084B2
6((3-Methyl-4-(4-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)butanoyl)piperazin-1-yl)methyl)nicotinonitrile
This compound was synthesized from 6-((3-methylpiperazin-1-yl)methyl)nicotinonitrile TFA salt and 4-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)butanoic acid as described for example 37 step 3 (16 mg, yield 16%) pale yellow viscous liquid. 1H NMR (400 MHz, MeOD) δ 8.82-8.81 (dd, J=2.0 Hz, 0.8 Hz, 1H), 8.15-8.12 (dd, J=8.2 Hz, 2.1 Hz, 1H), 7.77-7.75 (d, J=8.0 Hz, 1H), 3.78-3.66 (m, 2H), 2.96-2.92 (t, J=7.4 Hz, 2H), 2.89-2.85 (m, 1H), 2.73-2.69 (dt, J=11.5 Hz, 1.7 Hz, 1H), 2.51 (m, 2H), 2.34-2.30 (m, 1H), 2.22-2.17 (m, 1H), 2.14-2.06 (m, 2H), 1.35-1.32 (m, 3H), 1.30 (s, 3H). MS (ESI) m/z: Calculated for C19H21F3N6O2: 422.17. found: 423.2 (M+H)+

reactant | 6-((3-methylpiperazin-1-yl)methyl)nicotinonitrile TFA salt | OC(=O)C(F)(F)F.CC1CN(CCN1)CC1=NC=C(C#N)C=C1
reactant | 4-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)butanoic acid | FC(C1=NC(=NO1)CCCC(=O)O)(F)F | C7H7F3N2O3
product | 6((3-Methyl-4-(4-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)butanoyl)piperazin-1-yl)methyl)nicotinonitrile | 16 mg, yield 16% | CC1CN(CCN1C(CCCC1=NOC(=N1)C(F)(F)F)=O)CC1=NC=C(C#N)C=C1 | C19H21F3N6O2
